US04174401
A suspension of 38.43 grams (0.1 mole) of 1-diphenylmethyl-2-methylthiopseudourea hydroiodide and 8.82 grams (0.1 mole) of 1,4-diaminobutane in 500 milliliters of o-dichlorobenzene was stirred and heated under reflux overnight (about 19 hours). During the heating a reaction took place with the evolution of a basic gas and methyl mercaptan and the formation of a dark oily layer. While the mixture was still warm, the solvent was decanted from the oily layer, diluted with about 1.5 liters of ether and cooled. Scratching of the ether solution caused light colored crystals to form. The dark oily residue was taken up in about 75 milliliters of isopropanol and stored at -23° C., whereupon it came a semisolid gum; the gum was separated from the mother liquor by decantation and redissolved in fresh isopropanol whereupon a dark solid separated. The light colored crystals from the ether and the dark solid from the isopropanol were separately recrystallized using activated carbon and methanol-isopropanol mixture as solvent to obtain white crystals. The white crystals separately obtained were combined and recrystallized from the same solvent pair to obtain a purified 2-diphenylmethylamino-4,5,6,7-tetrahydro-1H-1,3-diazepine hydroiodide product m.p. 215°-217.5° C.

reactant | 1-diphenylmethyl-2-methylthiopseudourea hydroiodide | 0.1 mole, 38.43 grams | I.C1(=CC=CC=C1)C(NC(SC)=N)C1=CC=CC=C1
reactant | 1,4-diaminobutane | 0.1 mole, 8.82 grams | NCCCCN | C4H12N2
reactant | methyl mercaptan | CS | CH4S
solvent | o-dichlorobenzene | 500 milliliters | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | isopropanol | about 75 milliliters | C(C)(C)O | C3H8O
product | 2-diphenylmethylamino-4,5,6,7-tetrahydro-1H-1,3-diazepine hydroiodide | I.C1(=CC=CC=C1)C(C1=CC=CC=C1)NC=1NCCCCN1 | InChI=1S/C18H21N3.HI/c1-3-9-15(10-4-1)17(16-11-5-2-6-12-16)21-18-19-13-7-8-14-20-18;/h1-6,9-12,17H,7-8,13-14H2,(H2,19,20,21);1H
